* source TEST
V_V1         VCC 0 5Vdc
V_V2         VSS 0 -5Vdc
V_V3         N26903 0 2Vdc
V_V4         N28616 0 4Vdc
C_C1         0 N28732  1n  TC=0,0 
R_R2         N32314 N29345  460 TC=0,0 
X_U1         N28732 N28616 N30371 VCC VCC VCC 0 N30747 N30741 TLV3605
X_Q1         N30717 N30741 N30567 BFG425W/PLP
V_V6         N30567 0 0.38Vdc
R_R3         VCC N30717  1k TC=0,0 
V_V7         N40037 0  
+PULSE 5 0 50n 1n 1n 1.5u 2u
X_Q2         N32846 N30747 N33338 BFG425W/PLP
V_V8         N32730 0 5Vdc
R_R4         N32846 N32730  1k TC=0,0 
V_V9         N33338 0 0.38Vdc
R_R5         N29345 N33678  30 TC=0,0 
X_D1         N32314 N28732 BAT14-03w/INF
X_Q3         N29345 N30717 N26903 BFG425W/PLP
X_B1         N40037 N32846 N33678 NE325S01/CEL
I_I1         VCC N28732 DC 1uAdc  
V_V10         N40704 0  
+PULSE 5 0 50n 1n 1n 1.5u 2u
X_U2         N40704 0 N40798 N40802 N40925 N40843 UCCX7324
V_V11         N40925 0 12Vdc
C_C2         0 N40925  100n  TC=0,0 
C_C3         0 N40925  1u  TC=0,0 
